US04518597
6-[4-(3,4-Dimethyl-phenylsulfinyl)-butoxy]-4H-3,1-benzoxazin-2-one
Prepared analogously to Example 2 from 6-[4-(3,4-dimethyl-phenylmercapto)-butoxy]-4H-3,1-benzoxazin-2-one and hydrogen peroxide.

reactant | 6-[4-(3,4-dimethyl-phenylmercapto)-butoxy]-4H-3,1-benzoxazin-2-one | CC=1C=C(C=CC1C)SCCCCOC=1C=CC2=C(COC(N2)=O)C1 | C20H23NO3S
reactant | hydrogen peroxide | OO | H2O2
product | 6-[4-(3,4-Dimethyl-phenylsulfinyl)-butoxy]-4H-3,1-benzoxazin-2-one | CC=1C=C(C=CC1C)S(=O)CCCCOC=1C=CC2=C(COC(N2)=O)C1 | C20H23NO4S
